US04070366
2,3-Dimethyl-4-ethyl-5-carbethoxy-pyrrole
As in Example 32 but using 2,3-dimethyl-5-carbethoxy-pyrrole and paraldehyde. Colourless prisms (51%), m.p. 95°-97° (lit16) m.p. 97°). Anal. Calc. for C11H17NO2 : C, 67.66; H, 8.78; N, 7.17. Found: C, 67.59; H, 8.49; N, 7.23.

reactant | 2,3-dimethyl-5-carbethoxy-pyrrole | CC=1NC(=CC1C)C(=O)OCC | C9H13NO2
reactant | paraldehyde | CC1OC(OC(O1)C)C | C6H12O3
product | 2,3-Dimethyl-4-ethyl-5-carbethoxy-pyrrole | CC=1NC(=C(C1C)CC)C(=O)OCC | C11H17NO2
